US07427612B2
[4-(2-Fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-(2-iodo-5-methanesulfonyl-phenyl)-methanone
Example CM was prepared in analogy to Example 123 from 2-Iodo-5-methanesulfonyl-benzoic acid (example BQ) and 1-(2-Fluoro-4-methanesulfonyl-phenyl)-piperazine (commercial). MS (m/e): 567.0 (M+H+, 100%).

reactant | 2-Iodo-5-methanesulfonyl-benzoic acid | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | 1-(2-Fluoro-4-methanesulfonyl-phenyl)-piperazine | FC1=C(C=CC(=C1)S(=O)(=O)C)N1CCNCC1 | C11H15FN2O2S
product | [4-(2-Fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-(2-iodo-5-methanesulfonyl-phenyl)-methanone | FC1=C(C=CC(=C1)S(=O)(=O)C)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)I | C19H20FIN2O5S2
